US05760033
To a solution of 18.0 g of N-[1-(2-bromophenyl)-3-(methylsulfonyloxy)propyl]-2, 6-difluorobenzamide in 150ml of dioxane at room temperature, was added dropwise 4.5 g of triethylamine. The reaction mixture was refluxed for 2.5 hours. After cooling, the reaction mixture was poured into iced water and extracted with ethyl acetate. The ethyl acetate solution was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to afford 12.5 g of 2-(2,6-difluorophenyl)-4-(2-bromophenyl)-5,6-dihydro-4H-1,3-oxazine.

reactant | N-[1-(2-bromophenyl)-3-(methylsulfonyloxy)propyl]-2, 6-difluorobenzamide | 18.0 g | BrC1=C(C=CC=C1)C(CCOS(=O)(=O)C)NC(C1=C(C=CC=C1F)F)=O | C17H16BrF2NO4S
reactant | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dioxane | 150ml | O1CCOCC1 | C4H8O2
product | 2-(2,6-difluorophenyl)-4-(2-bromophenyl)-5,6-dihydro-4H-1,3-oxazine | 12.5 g | FC1=C(C(=CC=C1)F)C=1OCCC(N1)C1=C(C=CC=C1)Br | C16H12BrF2NO
